US08859555B2
To a solution of tert-butyl(trans)-2-(4-(4-bromobenzyloxy)phenyl)cyclopropylcarbamate (11 g, 26.37 mmol) in dioxane (110 mL) at 0° C., HCl in Dioxane (110 mL) was added and stirred for 1 h. After completion, the solvent was evaporated and residue was triturated with Et2O (15 mL) to give crude salt. The crude salt was dissolved in water (150 mL), basified with Na2CO3 solution, extracted with EtOAc (3×100 mL). The combined extracts were washed with water (50 mL), brine (50 mL), dried over anhydrous Na2SO4, filtered and evaporated to get (8.2 g, 98%) (trans)-2-(4-(4-bromobenzyloxy)phenyl)cyclopropanamine

reactant | tert-butyl(trans)-2-(4-(4-bromobenzyloxy)phenyl)cyclopropylcarbamate | 26.37 mmol, 11 g | BrC1=CC=C(COC2=CC=C(C=C2)[C@H]2[C@@H](C2)NC(OC(C)(C)C)=O)C=C1 | C21H24BrNO3
reactant | HCl | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 110 mL | O1CCOCC1 | C4H8O2
solvent | Dioxane | 110 mL | O1CCOCC1 | C4H8O2
solvent | water | 150 mL | O | H2O
product | (trans)-2-(4-(4-bromobenzyloxy)phenyl)cyclopropanamine | 8.2 g, 98% | BrC1=CC=C(COC2=CC=C(C=C2)[C@H]2[C@@H](C2)N)C=C1 | C16H16BrNO
